US08748418B2
Starting from (R)-2-methyl-propane-2-sulfinic acid [1-(2-fluoro-phenyl)-prop-(E)-ylidene]-amide (intermediate A2F) and ethyl 2-bromo-2,2-difluoroacetate, the product (R)-2,2-difluoro-3-(2-fluoro-phenyl)-3-((R)-2-methyl-propane-2-sulfinylamino)-pentanoic acid ethyl ester was obtained as a colorless oil. MS (ISP): m/z=380.2 [M+H]+.

reactant | (R)-2-methyl-propane-2-sulfinic acid [1-(2-fluoro-phenyl)-prop-(E)-ylidene]-amide | FC1=C(C=CC=C1)\C(\CC)=N\[S@](=O)C(C)(C)C | C13H18FNOS
reactant | ethyl 2-bromo-2,2-difluoroacetate | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
product | (R)-2,2-difluoro-3-(2-fluoro-phenyl)-3-((R)-2-methyl-propane-2-sulfinylamino)-pentanoic acid ethyl ester | C(C)OC(C([C@](CC)(N[S@](=O)C(C)(C)C)C1=C(C=CC=C1)F)(F)F)=O | C17H24F3NO3S
